US08487108B2
methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(3,5-difluoro-2-hydroxyphenyl)methoxy)ethylcarbamate (100 mg, 0.131 mmol) was dissolved in MeOH (1 mL) and Pd/C (20 mg) was added to it. The reaction mixture was stirred in 30 psi at room temperature for 2 h. The suspension was filtered and the filtrate was concentrated in vacuo. The residue was purified by preparative HPLC to afford methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(3,5-difluoro-2-hydroxyphenyl)methoxy)ethylcarbamate (20 mg, 28%).

reactant | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(N-methyl-N-(tert-butoxycarbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)(3,5-difluoro-2-hydroxyphenyl)methoxy)ethylcarbamate | 0.131 mmol, 100 mg | C1(CCCCC1)C[C@@H](CN(C(=O)OC(C)(C)C)C)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=C(C(=CC(=C1)F)F)O | C32H50F2N4O7
solvent | MeOH | 1 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(3,5-difluoro-2-hydroxyphenyl)methoxy)ethylcarbamate | 20 mg, 28% | C1(CCCCC1)C[C@@H](CNC)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=C(C(=CC(=C1)F)F)O | C27H42F2N4O5
